US05998436
Synthesis of 2-benzylamino-3,5,6-trifluoropyridine
To 50 ml of acetonitrile were added 12.0 g of 2,3,5,6-tetrafluoropyridine and 18.0 g of benzylamine, and the mixture was stirred under reflux condition for 2 hours, and the solvent and the like were distilled off. To the residue was added 150 ml of ethyl acetate, and the mixture was washed twice with 150 ml of distilled water and 150 ml of 10% aqueous solution of citric acid. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 16.0 g of the title compound as a pale yellow oil.

reactant | 2,3,5,6-tetrafluoropyridine | 12.0 g | FC1=NC(=C(C=C1F)F)F | C5HF4N
reactant | benzylamine | 18.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-benzylamino-3,5,6-trifluoropyridine | 16.0 g | C(C1=CC=CC=C1)NC1=NC(=C(C=C1F)F)F | C12H9F3N2
